US08357693B2
A mixture of tert-butyl 5-(6-(2-chloroethoxy)-2-[(3-phenyl)phenyl)-7-methoxyquinazolin-4-ylamino)-1H-indazole-1-carboxylate (0.25 g, 0.402 mmole), 1-methyl-1,4-diazepane (0.23 g, 0.25 mL, 2.00 mmoles) in DMSO was stirred at 85° C. for 2.5 h. The suspension was poured onto ice-water, filtered and re-dissolved in a mixture of CH2Cl2 and CH3OH and the solution was concentrated in vacuo. The residue was purified via preparative TLC (SiO2, 10% CH2Cl2/CH3OH—with 0.1% NH4OH) to give tert-butyl 5-(2-[(3-phenyl)phenyl)-7-methoxy-6-(2-(4-methyl-1,4-diazepan-1-yl)ethoxy)quinazolin-4-ylamino)-1H-indazole-1-carboxylate which taken on directly to the next step. HPLC retention time 5.96 mins.

reactant | tert-butyl 5-(6-(2-chloroethoxy)-2-[(3-phenyl)phenyl)-7-methoxyquinazolin-4-ylamino)-1H-indazole-1-carboxylate | 0.402 mmole, 0.25 g | ClCCOC=1C=C2C(=NC(=NC2=CC1OC)C1=CC(=CC=C1)C1=CC=CC=C1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C35H32ClN5O4
reactant | 1-methyl-1,4-diazepane | 2.00 mmoles, 0.25 mL, 0.23 g | CN1CCNCCC1 | C6H14N2
solvent | DMSO | CS(=O)C | C2H6OS
product | tert-butyl 5-(2-[(3-phenyl)phenyl)-7-methoxy-6-(2-(4-methyl-1,4-diazepan-1-yl)ethoxy)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | C1(=CC=CC=C1)C=1C=C(C=CC1)C1=NC2=CC(=C(C=C2C(=N1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C)OCCN1CCN(CCC1)C)OC | C41H45N7O4
